* C:\Projects\Matlab\MOZA_proj\kask4_trans.asc
VG in 0 SINE({Voff} {Vs} {fs}) AC 1
VCC c1 0 9V
RE1 e1 N002 {RE}
RC2 c1 c2 {RC2}
RC3 out N002 {RC3}
REE1 e2 e1 {REE1}
RE2 e2 N002 {RE}
VSS 0 N002 9V
RB2 0 b3 510
C2 0 b3 100n
D2 b3 c1 DZ6V8
XQ1 c1 in e1 BJTN
XQ2 c2 0 e2 BJTN
XQ3 out b3 c2 BJTP
REE2 N001 e1 {REE2}
CEE e2 N001 {CEE}
.model D D
.lib C:\Users\Kuba\Documents\LTspiceXVII\lib\cmp\standard.dio
* .ac dec 5 1 1G
* .op
* .PARAM REE1=5\n.PARAM REE2=8\n.PARAM CEE=50p\n.PARAM CG=50p\n.PARAM RE=200\n.PARAM RC2=81\n.PARAM RC3=330\n.PARAM Voff=0\n.PARAM Vs=0.1\n.PARAM fs=1k
.MEAS AC A0 FIND mag(V(out)) AT 1KHz
.MEAS AC fg FIND freq WHEN mag(V(out))=A0/sqrt(2) FALL=LAST
.MEAS AC GBW PARAM A0*fg
;tran 0 {3/fs} 0 {0.001/fs}
.MEAS TRAN Vmax max V(out)
.MEAS TRAN Vmin min V(out)
.MEAS TRAN Vpp PARAM Vmax-Vmin
.include params.inc
.dc VG -0.1 0.1 0.001
.lib modele.mod
.backanno
.end
